US09193694B2
4-(imidazo[1,2-a]pyridin-2-ylmethyl)-7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (Compound II-129)
7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one (50 mg) was dissolved in dry THF and the NaH suspension (6 mg, 60% in oil) was added, followed shortly by 2-(chloromethyl)imidazo[1,2-a]pyridine (29 mg) and stirred overnight at room temperature. Worked up with ethyl acetate and pH 7 buffer organic layer dried over MgS(O)4 and concentrated. Purification was conducted on normal phase (CH2Cl2/10% EtOH in ethyl acetate gradient) followed by reverse-phase (ACN/H2O, 0.1% TFA). Resulting glassy solid was dissolved in dioxane, diluted 10-fold with 0.1N HCl and lyophilized resulting in 4-(imidazo[1,2-a]pyridin-2-ylmethyl)-7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one hydrochloride salt as a white solid (42.2 mg).

reactant | 7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | 50 mg | FC(C1=CC=C(C=C1)C=1C=CC2=C(C(NCCO2)=O)C1)(F)F | C16H12F3NO2
reactant | NaH | 6 mg | [H-].[Na+]
reactant | 2-(chloromethyl)imidazo[1,2-a]pyridine | 29 mg | ClCC=1N=C2N(C=CC=C2)C1 | C8H7ClN2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 4-(imidazo[1,2-a]pyridin-2-ylmethyl)-7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | N=1C(=CN2C1C=CC=C2)CN2CCOC1=C(C2=O)C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H18F3N3O2
